US06835838B2
To a dry 500 mL flask under nitrogen atmosphere are charged 25.4 g of (E)-3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-propenal, prepared according to a process described in “Synthesis and Biological Evaluations of Quinoline-based HMG-CoA Reductase Inhibitors”, Bioorganic Med. Chem., Vol. 9, pp. 2727-2743 (2001), 0.080 mole, 0.91 g (S)-BINOL (4 mole %) and 5 g of molecular sieves (4A activated powder). 200 mL of anhydrous tetrahydrofuran is added and the mixture is stirred for 40 minutes 0.95 mL (4 mole %) of titanium (IV) isopropoxide is then added dropwise. The mixture becomes dark red immediately. After stirring 30 minutes at room temperature, 39.2 g (about 44 mL, 0.143 mole) of the compound of Example 2, 1-ethoxy-1,3-bis-trimethylsilanyloxy-buta-1,3-diene is added dropwise over 10 minutes. The flask is kept in a 18° C. water bath to maintain an internal temperature below 25° C. The mixture is stirred at room temperature and the disappearance of (E)-3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-propenal is monitored by TLC (33% ethyl acetate/hexane, Rf aldehyde=0.65). Reaction time varies from 1 hour to 72 hours depending on the amount of catalyst used. After the reaction is complete, 50 mL of water is added and the mixture is cooled with an ice bath, then 10 mL of 1:1 (v:v) trifluoroacetic acid/water is added. The mixture is allowed to warm to room temperature over about 30 minutes. At this time desilyation is complete as judged by TLC (disappearance of silyloxy aldol adduct Rf=0.75, appearance of desilylated product Rf=0.22). The mixture is added to a rapidly stirred flask containing 400 mL of ethyl acetate and 100 mL of saturated aqueous sodium bicarbonate. After stirring 5 minutes, the mixture is filtered to remove molecular sieves. The organic layer is separated and washed with brine, dried over anhydrous sodium sulfate and filtered. After solvent removal by evaporation, about 150 mL of hexane is added to the resulting oil over 45 minutes to induce precipitation. The mixture is stirred in an ice bath for additional 45 minutes. The precipitated solids are collected by vacuum filtration, washed with cold hexane and dried overnight under vacuum at 35° C. to form 33.8 g (94%) of (E)-(5S)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3yl]-5-hydroxy-3-oxo-hept-6-enoic acid ethyl ester in 97.4% optical purity (HPLC: Chiralpak AD; eluent, hexane/i-PrOH—94/6; flow rate 1 mL/min.; UV @254 nM).

reactant | (E)-3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-propenal | 25.4 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/C=O)C1=CC=C(C=C1)F | C21H16FNO
reactant | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | HMG-CoA | C[C@](CC(=O)O)(CC(=O)SCCNC(=O)CCNC(=O)[C@@H](C(C)(C)COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)O)O | C27H44N7O20P3S
reactant | (S)-BINOL | 0.080 mole, 0.91 g | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | 1-ethoxy-1,3-bis-trimethylsilanyloxy-buta-1,3-diene | C(C)OC(=CC(=C)O[Si](C)(C)C)O[Si](C)(C)C | C12H26O3Si2
reactant | trifluoroacetic acid water | 10 mL | FC(C(=O)O)(F)F.O
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
catalyst | titanium (IV) isopropoxide | 0.95 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (E)-(5S)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3yl]-5-hydroxy-3-oxo-hept-6-enoic acid ethyl ester | 33.8 g, 94% | C(C)OC(CC(C[C@@H](\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)O)=O)=O | C27H26FNO4
